US06194410B1
10 ml of a 50% solution of NH3 in MeOH were added to a solution of 0.35 g (0.935 mmol) of 3-benzenesulphonyl-5,7-dichloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine in 10 ml of DMF and stirred at RT for 12 hrs. The DMF was evaporated in a high vacuum and the residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2, and the combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (silica gel, CH2Cl2/AcOEt 15:1) and crystallization from EtOH yielded 0.28 g (84%) of 3-benzenesulphonyl-5-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine as colorless crystals, m.p.>230°.

reactant | NH3 | N | H3N
reactant | 3-benzenesulphonyl-5,7-dichloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidine | 0.935 mmol, 0.35 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)Cl)SC | C13H9Cl2N3O2S2
solvent | MeOH | CO | CH4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-benzenesulphonyl-5-chloro-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine | 0.28 g, 84% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N)Cl)SC | C13H11ClN4O2S2
